US05866568
4-(cyclopropylmethyl)benzeneboronic acid (1.5 g), 2-chloro-N-isobutoxycarbonyl-N-(3-methoxy-5-methylpyrazin-2-yl)pyridine-3-sulphonamide (2.99 g) and sodium carbonate (912 mg) were added to a mixture of toluene (66 ml), ethanol (33 ml) and water (24 ml). The mixture was deoxygenated by alternatively bubbling argon through and evacuating (3 cycles) and tetrakis(triphenylphosphine) palladium(0) (347 mgs) was added. The reaction mixture was heated to 80° C. for 18 hours with efficient stirring and, after cooling, ethyl acetate (50 ml) and water (30 ml) were added. The organic phase was separated and the aqueous layer exracted with ethyl acetate (2×30 ml). The combined organic phases were washed with brine (15 ml), dried (MgSO4) and evaporated. The residue was purified by chromatography on a Mega Bond Elut column, eluting with a gradient of ethyl acetate in hexane (0-100%) to give 2-(4-cyclopropylmethylphenyl)-N-isobutoxycarbonyl-N-(3-methoxy-5-methylpyrazin-2-yl)pyridine-3-sulphonamide (1.85 g); 1H NMR (d6 -DMSO): 0.25 (q, 2 H), 0.54 (m, 2 H), 1.03 (M, 1 H), 1.64 (m, 1 H), 2.55 (s, 3 H), 2.60 (d, 2 H), 3.83 (d, 2 H), 3.98 (s, 3 H), 7.33 (d, 2 H), 7.46 (d, 2 H), 7.77 (dd, 1 H), 8.15 (s, 1 H), 8.10-8.95 (m, 2 H); mass spectrum (+ve ESP) 511 (M+H)+.

reactant | 4-(cyclopropylmethyl)benzeneboronic acid | 1.5 g | C1(CC1)CC1=CC=C(C=C1)B(O)O | C10H13BO2
reactant | 2-chloro-N-isobutoxycarbonyl-N-(3-methoxy-5-methylpyrazin-2-yl)pyridine-3-sulphonamide | 2.99 g | ClC1=NC=CC=C1S(=O)(=O)N(C1=NC=C(N=C1OC)C)C(=O)OCC(C)C | C16H19ClN4O5S
reactant | sodium carbonate | 912 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | toluene | 66 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 24 ml | O | H2O
solvent | ethanol | 33 ml | C(C)O | C2H6O
product | 2-(4-cyclopropylmethylphenyl)-N-isobutoxycarbonyl-N-(3-methoxy-5-methylpyrazin-2-yl)pyridine-3-sulphonamide | 1.85 g | C1(CC1)CC1=CC=C(C=C1)C1=NC=CC=C1S(=O)(=O)N(C1=NC=C(N=C1OC)C)C(=O)OCC(C)C | C26H30N4O5S
